US06313312B1
3-Hexyl-6-(3-hydroxyphenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one
6-(3-Aminophenyl)-3-hexyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 84, 1.0 g, 3.5 mmol) was dissolved in aqueous hydrochloric acid (2.5 M, 3.5 ml) and cooled to 0° C. Sodium nitrite (0.25 g, 3.6 mmol) dissolved in water (I ml) was added to the reaction mixture and stirred for 30 min. The reaction mixture was neutralised with solid sodium carbonate and then diluted with water (5 ml). The reaction mixture was heated to 60° C. for 1 h during which time a dark brown oil formed on top of the aqueous layer. The product was extracted with dichloromethane (50 ml), and the organic extracts were dried (Na2SO4) and concentrated in vacuo to give a brown oil. The crude product was purified by chromatography on silica gel (20 g) eluting with ethyl acetate:hexane (1:1) to give the title compound (0.34 g, 34%).

reactant | 6-(3-Aminophenyl)-3-hexyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 3.5 mmol, 1.0 g | NC=1C=C(C=CC1)C1(C2CN(C(C12)=O)CCCCCC)C | C18H26N2O
reactant | Sodium nitrite | 3.6 mmol, 0.25 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 2.5 M, 3.5 ml | Cl | ClH
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 3-Hexyl-6-(3-hydroxyphenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 0.34 g, 34% | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)O)=O | C18H25NO2
